US05208230
Dissolve (R)-2-hydroxy-4-phenylbutyric acid, diphenylmethyl ester (1.38 g, 4.0 mmol) in methylene chloride (12 mL). Add pyridine (0.32 mL, 4 mmol), place under an argon atmosphere and cool to -10° C. Add, by dropwise addition, a solution of trifluoromethanesulfonic anhydride (0.673 mL, 4.0 mmol) in methylene chloride (2 mL). Stir at -10° to -20° C. for 2 hours, dilute with hexane (10 mL) and filter. Evaporate the solvent in vacuo to give (R)-2-trifluoromethanesulfonyl-4-phenylbutyric acid, diphenylmethyl ester.

reactant | (R)-2-hydroxy-4-phenylbutyric acid, diphenylmethyl ester | 4.0 mmol, 1.38 g | O[C@@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCC1=CC=CC=C1 | C23H22O3
reactant | pyridine | 4 mmol, 0.32 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 4.0 mmol, 0.673 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 12 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | 10 mL | CCCCCC | C6H14
product | (R)-2-trifluoromethanesulfonyl-4-phenylbutyric acid, diphenylmethyl ester | FC(S(=O)(=O)[C@@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCC1=CC=CC=C1)(F)F | C24H21F3O4S
